US08981101B2
53 mg (0.216 mmol) of 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline are added to a suspension, kept under an argon atmosphere, of 26 mg (0.65 mmol) of sodium hydride, (60% suspension in paraffin oil) in 1 ml of DMF, and the reaction mixture is stirred at room temperature for 1 hour. 18 μl (0.65 mmol) of iodomethane are then added, and the reaction mixture is stirred at room temperature for a further 17 hours. 0.5 ml of methanol is then added, and the reaction mixture is subsequently evaporated in vacuo. The residue is chromatographed on a silica-gel column with dichloromethane/methanol as eluent, giving 5-(1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline as colourless solid; MS (EI): 259 [M]+;

reactant | 5-(1H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline | 0.216 mmol, 53 mg | N1C=C(C=2C1=NC=CC2)C2=C1C=CN=CC1=CC=C2 | C16H11N3
reactant | sodium hydride | 0.65 mmol, 26 mg | [H-].[Na+]
reactant | iodomethane | 0.65 mmol, 18 μl | IC | CH3I
reactant | methanol | 0.5 ml | CO | CH4O
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 5-(1-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)isoquinoline | CN1C=C(C=2C1=NC=CC2)C2=C1C=CN=CC1=CC=C2 | C17H13N3
